US06939870B2
Starting from 3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-1,2,3-benzotriazin-4(3H)-one (0.83 g, 2.2 mmol) and iodomethane (0.14 mL, 2.2 mmol), and following the same procedure as in example 21, 0.31 g of 3-[3-(4-(1-methyl-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-1,2,3-benzotriazin-4(3H)-one was isolated as an orange solid. Yield 35%; mp 70° C.; MS: 400.3 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 2.20 (m, 2H), 2.54 (m, 2H), 2.66 (t, 2H), 2.72 (t, 2H), 3.21 (m, 2H), 3.75 (s, 3H), 4.60 (t, J=5.34 Hz, 2H), 6.11 (t, 1H), 6.99 (s, 1H), 7.15 (t, 1H), 7.22 (t, 1H), 7.27 (m, 2H), 7.75 (t, 1H), 7.87 (m, 1H), 8.12 (d, 1H), 8.36 (d, 1H).

reactant | 3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-1,2,3-benzotriazin-4(3H)-one | 2.2 mmol, 0.83 g | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCN1N=NC2=C(C1=O)C=CC=C2 | C23H23N5O
reactant | iodomethane | 2.2 mmol, 0.14 mL | IC | CH3I
product | 3-[3-(4-(1-methyl-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-1,2,3-benzotriazin-4(3H)-one | 0.31 g, Yield 35% | CN1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCN1N=NC2=C(C1=O)C=CC=C2 | C24H25N5O
